US05817826
4,5-Diphenyloxazol-2-one (500 mg, 2.11 mmol) was dissolved in DMF (4 ml) and sodium hydride (153 mg, 2.55 mmol) was added under nitrogen and with ice cooling over 20 minutes. After stirring for 20 minutes, propargyl bromide (210 μl, 2.79 mmol) was added. After stirring for 15 minutes with ice cooling and stirring at room temperature for 2 hours, water (20 ml) was added and the mixture was extracted with ethyl acetate. The extract was washed in turn with water and brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 3-(2-propynyl)-4,5-diphenyl-oxazol-2-one.

reactant | 4,5-Diphenyloxazol-2-one | 2.11 mmol, 500 mg | C1(=CC=CC=C1)C=1NC(OC1C1=CC=CC=C1)=O | C15H11NO2
reactant | sodium hydride | 2.55 mmol, 153 mg | [H-].[Na+]
reactant | propargyl bromide | 2.79 mmol, 210 μl | C(C#C)Br | C3H3Br
reactant | water | 20 ml | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 3-(2-propynyl)-4,5-diphenyl-oxazol-2-one | Yield 45% | C(C#C)N1C(OC(=C1C1=CC=CC=C1)C1=CC=CC=C1)=O | C18H13NO2
